US09056874B2
(±)-tert-Butyl 4-(1-((tert-butylsulfinyl)imino)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate
To a solution of tert-butyl 5-methoxy-7-methyl-4-(2,2,2-trifluoroacetyl)-1H-indole-1-carboxylate (0.45 g, 1.26 mmol) and 2-methyl-2-propanesulfinamide (0.46 g, 3.78 mmol) in toluene (12.6 mL), Zr(O-t-Bu)4 (2.52 mL, 6.30 mmol) was added at room temperature, and the reaction was heated to 100° C. After 15 minutes the reaction mixture was cooled to room temperature and diluted with EtOAc and sat. aq. brine. The resulting mixture was filtered and the layers separated. The aqueous layer was extracted with EtOAc. The combined organic extracts were dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-50% EtOAc in heptanes) to provide the title compound. MS (ESI+) m/z 461.3 (M+H).

reactant | tert-butyl 5-methoxy-7-methyl-4-(2,2,2-trifluoroacetyl)-1H-indole-1-carboxylate | 1.26 mmol, 0.45 g | COC=1C(=C2C=CN(C2=C(C1)C)C(=O)OC(C)(C)C)C(C(F)(F)F)=O | C17H18F3NO4
reactant | 2-methyl-2-propanesulfinamide | 3.78 mmol, 0.46 g | CC(C)(C)S(=O)N | C4H11NOS
solvent | toluene | 12.6 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | (±)-tert-Butyl 4-(1-((tert-butylsulfinyl)imino)-2,2,2-trifluoroethyl)-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(C)(C)(C)S(=O)N=C(C(F)(F)F)C1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C | C21H27F3N2O4S
